US04276304
A mixture of 3.6 g of 1-(3,4-dimethoxyphenyl)-1-chloro-2-methyl-2-nitropropane, 910 mg of sodium acetate, 6.7 ml of acetic acid, 200 mg of platinum dioxide, 280 mg of activated charcoal and 35 ml of 1,2-dimethoxyethane is shaken at 60°-85° C. for 5.5 hours in hydrogen gas atmosphere under 55 atmospheric pressures. After cooling, insoluble materials are removed by filtration, and the filtrate is evaporated under reduced pressure to remove solvent. The residue (pale yellow oil) is dissolved in water, and then washed with ether. The aqueous layer is neutralized with 20% sodium hydroxide under cooling, and then extracted with ether. The extract is washed with water, dried and then evaporated to remove solvent. The residue (colorless oil) is converted into its hydrochloride with hydrogen chlorideether, and said hydrochloride is recrystallized from isopropylalcohol. 2.1 g of α,α-dimethyl-3,4-dimethoxyphenethylamine hydrochloride are thereby obtained as colorless plates.

reactant | 1-(3,4-dimethoxyphenyl)-1-chloro-2-methyl-2-nitropropane | 3.6 g | COC=1C=C(C=CC1OC)C(C(C)([N+](=O)[O-])C)Cl | C12H16ClNO4
reactant | sodium acetate | 910 mg | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 6.7 ml | C(C)(=O)O | C2H4O2
reactant | charcoal | 280 mg | C | CH4
solvent | hydrogen | [H][H] | H2
catalyst | platinum dioxide | 200 mg | [Pt](=O)=O
solvent | 1,2-dimethoxyethane | 35 ml | COCCOC | C4H10O2
product | α,α-dimethyl-3,4-dimethoxyphenethylamine hydrochloride | 2.1 g | Cl.CC(CC1=CC(=C(C=C1)OC)OC)(C)N | InChI=1S/C12H19NO2.ClH/c1-12(2,13)8-9-5-6-10(14-3)11(7-9)15-4;/h5-7H,8,13H2,1-4H3;1H
